US04474602
Preparation of 2-chloro-6-methoxy-4-(2-(2,2,2-trichloroethyl)oxiranyl)pyridine
To a solution of 11.8 g of 2-chloro-6-methoxy-4-(3,3,3-trichloro-1-methylenepropyl)pyridine containing the 2-bromo-6-methoxy-4-(3,3,3-trichloro-1-methylenepropyl)pyridine byproduct in 300 ml of chloroform was added 10.3 g of 85% m-chloro-perbenzoic acid. The solution was heated at reflux for 32 hours, cooled, and washed with 2N sodium hydroxide, water, and dried (Na2SO4). The solvent was removed in vacuo, leaving 12.5 g of crude product which was purified by high pressure liquid chromatography using 5% ethyl acetate in hexane as eluent. 5.4 g of pure product containing 16% of the bromo derivative was obtained. Analysis of the mixture was confirmed by gas-liquid chromatography, nuclear magnetic resonance spectroscopy, mass spectroscopy, and elemental analysis. Elemental analysis for the mixture:

reactant | 2-chloro-6-methoxy-4-(3,3,3-trichloro-1-methylenepropyl)pyridine | 11.8 g | ClC1=NC(=CC(=C1)C(CC(Cl)(Cl)Cl)=C)OC | C10H9Cl4NO
reactant | 2-bromo-6-methoxy-4-(3,3,3-trichloro-1-methylenepropyl)pyridine | BrC1=NC(=CC(=C1)C(CC(Cl)(Cl)Cl)=C)OC | C10H9BrCl3NO
reactant | m-chloro-perbenzoic acid | 10.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-6-methoxy-4-(2-(2,2,2-trichloroethyl)oxiranyl)pyridine | 12.5 g | ClC1=NC(=CC(=C1)C1(OC1)CC(Cl)(Cl)Cl)OC | C10H9Cl4NO2
